US07977331B1
To a solution of ethyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate (50 mg, 0.10 mmol) in tetrahydrofuran (2 ml) and methanol (2 ml) was added 4N aqueous sodium hydroxide solution (1 ml), and the mixture was stirred with heating at 60° C. for 1 hr. The reaction mixture was allowed to cool to room temperature. 2N Hydrochloric acid (2 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. Hexane was added to the residue, and the precipitated solid was collected by filtration and dried in vacuo to give 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylic acid (21 mg, yield 41%).

reactant | ethyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate | 0.10 mmol, 50 mg | C(C1=CC=CC=C1)OC1=CC2=C(C3=C(C4=C(N3CCC2=O)N=C(C=C4)C(=O)OCC)C4CCCCC4)C=C1 | C32H32N2O4
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylic acid | 21 mg, yield 41% | C(C1=CC=CC=C1)OC1=CC2=C(C3=C(C4=C(N3CCC2=O)N=C(C=C4)C(=O)O)C4CCCCC4)C=C1 | C30H28N2O4
